US06310107B1
6-(4-Biphenylyl)methoxy-2-[3-(N,N-dimethylamino)propyl]tetralin Hydrochloride
60% Oily sodium hydride (0.258 g) was added to a DMF solution (20 ml) of 2-[3-(N,N-dimethylamino)propyl]-6-hydroxytetralin (1.00 g) at 0° C. The reaction mixture was warmed to room temperature, and stirred for 30 minutes. This was again cooled to 0° C., and 4-(chloromethyl)biphenyl (1.04 g) as added thereto, and then stirred at room temperature for 4 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried, and concentrated. The residue was purified by alumina column chromatography (eluent: toluene alone to toluene/ethyl acetate=1/1), and then processed with 4 N hydrochloric acid-ethyl acetate to form a hydrochloride. The thus-formed salt was recrystallized from methanol-diisopropyl ether to obtain the entitled compound (1.30 g).

reactant | sodium hydride | 0.258 g | [H-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 2-[3-(N,N-dimethylamino)propyl]-6-hydroxytetralin | 1.00 g | CN(C)CCCC1CC2=CC=C(C=C2CC1)O | C15H23NO
reactant | 4-(chloromethyl)biphenyl | 1.04 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
solvent | Water | O | H2O
product | 6-(4-Biphenylyl)methoxy-2-[3-(N,N-dimethylamino)propyl]tetralin Hydrochloride | Cl.C1(=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCCN(C)C)C1=CC=CC=C1 | InChI=1S/C28H33NO.ClH/c1-29(2)18-6-7-22-10-15-27-20-28(17-16-26(27)19-22)30-21-23-11-13-25(14-12-23)24-8-4-3-5-9-24;/h3-5,8-9,11-14,16-17,20,22H,6-7,10,15,18-19,21H2,1-2H3;1H
